US07414052B2
A mixture of indoline (1.42 g, 11.89 mmol) and [(2R,3R)-3-(3-fluorophenyl)oxiran-2-yl]methanol (2.0 g, 11.89 mmol) was heated at 125° C. for 5 hours in a sealed reaction vial. Upon cooling, the crude product was dissolved in ethyl acetate, absorbed on Fluorocil, and purified by Biotage chromatography (FlasH40i, silica, 0-55% EtOAc/hexane) to give 2.55 g (75%) of (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol as a colorless oil. MS (ESI) m/z 288.1 ([M+H]+).

reactant | indoline | 11.89 mmol, 1.42 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | [(2R,3R)-3-(3-fluorophenyl)oxiran-2-yl]methanol | 11.89 mmol, 2.0 g | FC=1C=C(C=CC1)[C@@H]1[C@H](O1)CO | C9H9FO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol | 2.55 g, 75% | N1(CCC2=CC=CC=C12)[C@H]([C@@H](CO)O)C1=CC(=CC=C1)F | C17H18FNO2
